US05149737
Preparation of 2-{2-[2-(4-vinylbenzylthio)ethoxy]ethylthio}ethanol
To a solution of potassium hydroxide (48 g, 0.72 molar) in ethanol (1 liter) was added bis(2-mercaptoethyl)ether (100 g, 0.72 moles) and the mixture was stirred for 30 minutes at ambient temperature. Then 2-bromoethanol (90 g, 0.72 mole) was added to the mixture all at once and stirring was continued at ambient temperature for 30 minutes, then potassium hydroxide (48.0 g, 0.72 mole) was added to the mixture and again stirring was continued at ambient temperature for 30 minutes. p-Vinylbenzyl chloride (110 g, 0.72 mole) was then added all at once and stirred at room temperature for 16 hours. The next day the reaction was filtered and the solvent removed on a rotary evaporator. To the residue was added dichloromethane (1.2 liter), the mixture was washed with water (200 ml), 5% hydrochloric acid (200 ml), saturated sodium chloride (200 ml) then dried over anhydrous magnesium sulfate, filtered and the solvent removed in a rotary evaporator. To the residue was added diethyl ether (350 ml) and hexane (200 ml) and then the mixture was cooled in the freezer, filtered to give a white solid (94 g). Chromotography of the mother liquors gave additional product (48 g). Yield of 66%. Analysis calculated for C15H22O2S2. C, 60.36, H, 7.43, S, 21.49. Found: C, 60.41, H, 7.43, S, 21.14. 1H NMR (CDCl3) δ2.7 (m, 6H, CH2S--CH2 +SCH2), 3.0-3.8 (m, 9H, ArCH2S, CH2OCH2, CH2OH), 5.15+5.65 (AB quartet, 2H, CH2 =), 6.68 (m, 1H, CH=), 7.25 (m, 4H, ArH's).

reactant | potassium hydroxide | 0.72 molar, 48 g | [OH-].[K+]
reactant | bis(2-mercaptoethyl)ether | 0.72 moles, 100 g | SCCOCCS | C4H10OS2
reactant | 2-bromoethanol | 0.72 mole, 90 g | BrCCO | C2H5BrO
reactant | potassium hydroxide | 0.72 mole, 48.0 g | [OH-].[K+]
reactant | p-Vinylbenzyl chloride | 0.72 mole, 110 g | C(=C)C1=CC=C(CCl)C=C1 | C9H9Cl
solvent | ethanol | 1 liter | C(C)O | C2H6O
product | 2-{2-[2-(4-vinylbenzylthio)ethoxy]ethylthio}ethanol | 94 g | C(=C)C1=CC=C(CSCCOCCSCCO)C=C1 | C15H22O2S2
